US08211882B2
5-Chloro-N-(3-cyanophenyl)-2-hydroxybenzamide (Compound 16).
This material was prepared according to the method of Example 1 using 5-chlorosalicylic acid and 3-aminobenzonitrile, with reagents and solvents employed in similar molar ratios. 1HNMR (500 MHz, DMSO-d6): δ 3.72 (s, 3H), 6.74 (m, 1H), 7.05 (m, 1H), 7.45 (m, 1H), 7.58 (br m, 2H), 7.83 (m, 1H), 7.88 (m, 1H), 8.19 (br s, 1H), 10.59 (s, 1H).

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3-aminobenzonitrile | NC=1C=C(C#N)C=CC1 | C7H6N2
product | 5-Chloro-N-(3-cyanophenyl)-2-hydroxybenzamide | ClC=1C=CC(=C(C(=O)NC2=CC(=CC=C2)C#N)C1)O | C14H9ClN2O2
